data/oMe_Silver.jsonl
{"reaction_id": "NR-213_1-c2ccc([N+](=O)[O-])cc2_2-C2OC2_3-C(C)C#N_4-CC","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(c2ccc([N+](=O)[O-])cc2)","C(C2OC2)=C(C(C)C#N)(CC)"],"products_smiles": ["C(C2OC2)1OC1(C(C)C#N)(CC)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(c2ccc([N+](=O)[O-])cc2)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(c2ccc([N+](=O)[O-])cc2)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(C2OC2)1OC1(C(C)C#N)(CC)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
{"reaction_id": "NR-239_1-c1cnccc1_2-c1ccc(F)cc1_3-C1CCCCC1_4-CC","level": "medium","name": "Stetter Reaction","reactants_smiles": ["c1cnccc1C(=O)[H]","C(C1CCCCC1)=C(CC)C(=O)c1ccc(F)cc1","[C-]#N"],"products_smiles": ["c1ccc(F)cc1C(=O)C(CC)C(C1CCCCC1)C(=O)c1cnccc1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1cnccc1C([O-])C#N","step_weight": 0,"rationale": "Cyanide attacks the electrophilic carbonyl carbon of the aldehyde due to its strong nucleophilicity and the polarization of the C=O bond, forming a stabilized cyanohydrin anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1cnccc1[C-](O)C#N","step_weight": 0,"rationale": "Proton transfer occurs to generate the Breslow-type intermediate, driven by stabilization through resonance between the alkoxide and adjacent carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1cnccc1C(O)(C#N)C(C1CCCCC1)C(CC)=C([O-])c1ccc(F)cc1","step_weight": 0,"rationale": "The nucleophilic Breslow intermediate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1cnccc1C([O-])(C#N)C(C1CCCCC1)C(CC)C(=O)c1ccc(F)cc1","step_weight": 0,"rationale": "Proton transfer converts the enolate into a neutral alcohol, driven by the high basicity of the enolate and the availability of proton donors in the medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(F)cc1C(=O)C(CC)C(C1CCCCC1)C(=O)c1cnccc1","step_weight": 0,"rationale": "Elimination of cyanide regenerates the catalyst, favored by the formation of a conjugated carbonyl system and the good leaving group ability of cyanide under these conditions."}],"description": "In the Stetter reaction, a nucleophilic catalyst such as cyanide activates the aldehyde to form a Breslow-type intermediate, which then performs a Michael addition to an α,β-unsaturated carbonyl. Subsequent proton transfers and catalyst elimination yield the thermodynamically stable 1,4-dicarbonyl product."}
